US09359382B2
1 mol of sodium hydride was added to the solvent dimethylformamide, and 1 mol of hydroxypivalic acid methyl ester was added thereto while the temperature of the solution did not exceed 30° C. The solution was stirred at room temperature for 90 minutes. Then, 1.2 mol of p-toluenesulfonic acid ethyl ester was added to the solution while the temperature of the solution did not exceed 30° C. Then, a water/hexane mixture having the same mass as that of the dimethylformamide was added to and mixed with the solution, after which water was removed therefrom. The resulting organic material was concentrated, and the residue was fractionated at atmospheric pressure and 108˜111° C., thereby obtaining the intermediate 3-ethoxy-2,2-dimethylpropionic acid methyl ester at a yield of 34%.

reactant | sodium hydride | 1 mol | [H-].[Na+]
reactant | hydroxypivalic acid methyl ester | 1 mol | COC(C(CO)(C)C)=O | C6H12O3
reactant | p-toluenesulfonic acid ethyl ester | 1.2 mol | C(C)OS(=O)(=O)C1=CC=C(C=C1)C | C9H12O3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water hexane | O.CCCCCC
product | 3-ethoxy-2,2-dimethylpropionic acid methyl ester | yield of 34% | COC(C(COCC)(C)C)=O | C8H16O3
